US06380219B1
To a solution of 2-(R)-2-[carboxymethyl(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester (example 1) (905 mg, 2.08 mmol) in methylene chloride (18 mL) were added sequentially triethylamine (0.72 mL, 5.14 mmol), benzylamine (0.25 mL, 2.29 mmol) and (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (1.01 grams, 2.28 mmol). The mixture was stirred at room temperature overnight and then diluted with ethyl acetate. The solution was washed with 0.5 N hydrochloric acid solution and brine, dried over magnesium sulfate and concentrated under vacuum. The residue was chromatographed on silica gel using a 2:5:16 ratio of methylene chloride/ethyl acetate/hexane affording 2-(R)-2-[benzylcarbamoylmethyl)(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester as a clear oil, 933 mg (86%).

reactant | triethylamine | 5.14 mmol, 0.72 mL | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 2.29 mmol, 0.25 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 2.28 mmol, 1.01 grams | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 18 mL | C(Cl)Cl | CH2Cl2
product | 3-methylbutyric acid benzyl ester | C(C1=CC=CC=C1)OC(CC(C)C)=O | C12H16O2
